US04642313
8.0 g of (2-furylcarbonyl)methylamine hydrochloride, 10.5 g of sodium bicarbonate and 9.2 g of 4-methylbenzoyl chloride are treated in the same manner as described in Preparation 1-(1). 10.0 g of N-(4-methylbenzoyl)-(2-furylcarbonyl)methylamine are thereby obtained. Yield: 83.3%

reactant | (2-furylcarbonyl)methylamine hydrochloride | 8.0 g | Cl.O1C(=CC=C1)C(=O)CN
reactant | sodium bicarbonate | 10.5 g | C([O-])(O)=O.[Na+]
reactant | 4-methylbenzoyl chloride | 9.2 g | CC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO
product | N-(4-methylbenzoyl)-(2-furylcarbonyl)methylamine | 10.0 g, Yield: 83.3% | CC1=CC=C(C(=O)NCC(=O)C=2OC=CC2)C=C1 | C14H13NO3
